US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.37 g, 1.00 mmol) and 4-bromophenylisocyanate (0.20 g, 1.00 mmol) in acetonitrile (30 mL) at 0° C. was added TEA (0.20 g, 2.0 mmol) dropwise over 10 min. The mixture was stirred at ambient temperature for 2 h and then 10% aqueous HCl solution (30 mL) was added. The solid precipitate was filtered, washed with water (30 mL) and dried in vacuo providing 1-(4-bromo-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.42 g, 89% yield); mp 278-280° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 3.00 (99.50%); 1H NMR (DMSO-d6) δ 1.93-2.06 (m, 1H, CHH), 2.29-2.46 (m, 1H, CHH), 2.54-2.67 (m, 1H, CHH), 2.81-3.02 (m, 1H, CHH), 4.30 (d, 1H, CHH), 4.36-4.52 (m, 3H, CH2 and CHH), 5.11 (dd, J=4.8, 13.1 Hz, 1H, CH), 6.80 (t, J=5.7 Hz, 1H, NH), 7.31-7.47 (m, 5H, Ar), 7.51 (s, 1H, Ar), 7.69 (d, 1H, Ar), 8.81 (s, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 31.20, 42.77, 47.12, 51.56, 112.42, 119.66, 121.88, 122.93, 126.89, 130.30, 131.32, 139.81, 142.38, 144.69, 155.03, 167.93, 170.99, 172.85; LCMS: MH=472; Anal. Calcd for C21H19BrN4O4: C, 53.52; H, 4.06; N, 11.89. Found: C, 53.32; H, 3.97; N, 11.77.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.00 mmol, 0.37 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-bromophenylisocyanate | 1.00 mmol, 0.20 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | HCl | 30 mL | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-(4-bromo-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.42 g, 89% yield | BrC1=CC=C(C=C1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C21H19BrN4O4
